US04699928
A solution of (Z)-1-fluoro-2-(2',4'-dichlorophenoxy) methyl-3-phthalimidopropene (0.67 g) and hydrazine hydrate (0.13 g) in ethanol (20 ml) is refluxed for 3 hours. The ethanol is evaporated, the residue extracted with ether and the ether solution washed with dilute aqueous sodium hydroxide, then with water, dried and evaporated. The residue is treated with di-tert-butyl dicarbonate (0.44 g), chloroform (20 ml) and water (6 ml), with added sodium chloride (1 g), for 1.5 hours at reflux to give (Z)-N-t-butyloxycarbonyl-2-(2',4'-dichlorophenoxy)methyl-3-fluoroallylamine. Pure colorless needles (0.43 g) are obtained by silica chromatography using 15% EtOAC in light petroleum as eluant. Cleavage of the butyloxycarbonyl group (HCl/ether) gave (Z)-2-(2',4'-dichlorophenoxy)methyl-3-fluoroallylamine as its hydrochloride salt; colorless needles (0.30 g; 59% yield); mp 135°-136° C.

reactant | (Z)-1-fluoro-2-(2',4'-dichlorophenoxy) methyl-3-phthalimidopropene | 0.67 g | F\C=C(\CN1C(C=2C(C1=O)=CC=CC2)=O)/COC2=C(C=C(C=C2)Cl)Cl | C18H12Cl2FNO3
reactant | hydrazine hydrate | 0.13 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (Z)-N-t-butyloxycarbonyl-2-(2',4'-dichlorophenoxy)methyl-3-fluoroallylamine | C(C)(C)(C)OC(=O)NC/C(=C/F)/COC1=C(C=C(C=C1)Cl)Cl | C15H18Cl2FNO3
